US08754103B2
In a 50-mL round-bottom flask equipped with a magnetic stir bar 1-(4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl)ethanone (50 mg) was dissolved in dry toluene (1 mL), ethylene glycol (0.1 mL) and camphorsulfonic acid (a few crystals) were added. The reaction mixture was stirred overnight at reflux temperature. Extracted with concentrated NaHCO3 and EtOAc, organic layer dried over MgSO4, concentrated, and purified by chromatography (1:1 hexanes/EtOAc). The desired 6-(4-(2-methyl-1,3-dioxolan-2-yl)phenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine was isolated.

reactant | 1-(4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl)ethanone | 50 mg | FC(C1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)C(C)=O)(F)F | C15H10F3N3O
reactant | ethylene glycol | 0.1 mL | C(CO)O | C2H6O2
reactant | camphorsulfonic acid | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(4-(2-methyl-1,3-dioxolan-2-yl)phenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | CC1(OCCO1)C1=CC=C(C=C1)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F | C17H14F3N3O2
